US07544803B2
6-Bromo-naphthalene-2-carboxylic acid (3-hydroxymethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-amide.
This material was prepared analogous to the procedure described for Example 1(c). 6-Bromo-naphthalene-2-carbonyl chloride, Example 2(a), (258 mg, 0.96 mmol) reacted with (7-amino-1,2,3,4-tetrahydro-quinolin-3-yl)-methanol (171 mg, 0.96 mmol, prepared according to the procedure described in WO03049702) to give the title compound as an light-brown amorphous solid. MS (ESI, pos. ion) m/z: 413 (M+1).

reactant | 6-Bromo-naphthalene-2-carbonyl chloride | BrC=1C=C2C=CC(=CC2=CC1)C(=O)Cl | C11H6BrClO
reactant | (7-amino-1,2,3,4-tetrahydro-quinolin-3-yl)-methanol | NC1=CC=C2CC(CNC2=C1)CO | C10H14N2O
product | 6-Bromo-naphthalene-2-carboxylic acid (3-hydroxymethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-amide | OCC1CNC2=CC(=CC=C2C1)NC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C21H19BrN2O2
